US08058245B2
1-[6-Methoxy-3-(2-phenylethyl)benzo[b]furan-5-yl]-1-deoxy-β-D-glucopyranose
To a suspension of 1-[6-methoxy-3-(2-phenylethyl)-benzo[b]furan-5-yl]-1-deoxy-2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranose (0.03 g) in methanol (4 mL) was added sodium methoxide (28% methanol solution, 0.038 mL), and the mixture was stirred at 50° C. for 6 hours. The reaction mixture was purified directly by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1-5/1) to give the title compound (0.015 g).

reactant | 1-[6-methoxy-3-(2-phenylethyl)-benzo[b]furan-5-yl]-1-deoxy-2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranose | 0.03 g | COC=1C(=CC2=C(OC=C2CCC2=CC=CC=C2)C1)[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C43H58O11
reactant | sodium methoxide | 0.038 mL | C[O-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | 1-[6-Methoxy-3-(2-phenylethyl)benzo[b]furan-5-yl]-1-deoxy-β-D-glucopyranose | 0.015 g | COC=1C(=CC2=C(OC=C2CCC2=CC=CC=C2)C1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C23H26O7
